US09328095B2
Methyl 5-bromo-2-(2-(4-chlorophenoxy)acetamido)benzoate
To a solution of methyl 2-amino-5-bromobenzoate (3.03 mL, 17.4 mmol) in THF (28 mL) was added 2-(4-chlorophenoxy)acetyl chloride (3.92 g, 19.1 mmol) to form a suspension. An additional 30 mL of dichloromethane was added. The reaction was then cooled to 0° C. and triethylamine (5.32 mL, 38.3 mmol) was added dropwise. The cold bath was removed and the reaction was stirred at room temperature for 2 hours. Analysis showed the reaction to be incomplete, so additional 2-(4-chlorophenoxy)acetyl chloride (0.5 mL, 3.22 mmol) was added and reaction solution was stirred for 1 hour then transferred to a reparatory funnel with dichloromethane dilution. The organic phase was washed with water and saturated aqueous NH4Cl solution, then dried (MgSO4), filtered, and concentrated to yield the title compound.

reactant | methyl 2-amino-5-bromobenzoate | 17.4 mmol, 3.03 mL | NC1=C(C(=O)OC)C=C(C=C1)Br | C8H8BrNO2
reactant | 2-(4-chlorophenoxy)acetyl chloride | 19.1 mmol, 3.92 g | ClC1=CC=C(OCC(=O)Cl)C=C1 | C8H6Cl2O2
reactant | dichloromethane | 30 mL | ClCCl | CH2Cl2
reactant | triethylamine | 38.3 mmol, 5.32 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(4-chlorophenoxy)acetyl chloride | 3.22 mmol, 0.5 mL | ClC1=CC=C(OCC(=O)Cl)C=C1 | C8H6Cl2O2
solvent | THF | 28 mL | C1CCOC1 | C4H8O
product | Methyl 5-bromo-2-(2-(4-chlorophenoxy)acetamido)benzoate | BrC=1C=CC(=C(C(=O)OC)C1)NC(COC1=CC=C(C=C1)Cl)=O | C16H13BrClNO4
